US08648066B2
A solution of 1,1-dimethylethyl 7-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-2-methyl-1H-benzimidazol-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (13.1 g, 27 mmol) in a mixture of methanol (20 mL) and 4 N hydrogen chloride in dioxane (30 mL) was refluxed for 15 min. After cooling to room temperature ethyl ether (100 mL) was added, and the reaction mixture was concentrated. Another portion of ethyl ether (100 mL) was added, the precipitate was filtered off, washed several times with ethyl ether, and dried to give 7-(2-methyl-1H-benzimidazol-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride (8.9 g, 93% yield) as a light beige solid. 1HNMR (400 MHz, CD3OD): 7.93 (s, 1H), 7.86-7.67 (m, 4H), 7.28 (s, 1H), 4.54 (s, 2H), 4.33-4.23 (m, 2H), 3.65-3.54 (m, 2H), 2.91 (s, 3H); MS (EI) for C17H17N3O: 280 (MH+).

reactant | 1,1-dimethylethyl 7-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-2-methyl-1H-benzimidazol-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 27 mmol, 13.1 g | CC(C)(C)OC(=O)N1C(=NC2=C1C=C(C=C2)C=2C=CC1=C(CN(CCO1)C(=O)OC(C)(C)C)C2)C | C27H33N3O5
reactant | ethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 7-(2-methyl-1H-benzimidazol-6-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 8.9 g, 93% yield | Cl.Cl.CC1=NC2=C(N1)C=C(C=C2)C=2C=CC1=C(CNCCO1)C2 | InChI=1S/C17H17N3O.2ClH/c1-11-19-15-4-2-13(9-16(15)20-11)12-3-5-17-14(8-12)10-18-6-7-21-17;;/h2-5,8-9,18H,6-7,10H2,1H3,(H,19,20);2*1H
